US07465795B2
4-amino-N-cyclopropyl-8-(2,5-dimethoxyphenyl)cinnoline-3-carboxamide
Using Method A, 4-amino-8-bromo-N-cyclopropyl-cinnoline-3-carboxamide (100 mg, 0.33 mmol) and 2,5-dimethoxyphenylboronic acid (118 mg, 0.65 mmol) were reacted. After purification the title compound (101 mg, 85% yield) was obtained as a white solid. 1H NMR (300 MHz, CDCl3) δ 8.56 (bm, 1H), 7.85 (a dd, J=2.2, 7.6 Hz, 1H), 7.73 (m, 2H), 6.95 (m, 2H), 6.91 (m, 1H), 3.77 (s, 3H), 3.63 (s, 3H), 2.96 (m, 1H), 0.88 (m, 2H), 0.65 (m, 2H). MS APCI, m/z=365, HPLC 2.42 min.

reactant | 4-amino-8-bromo-N-cyclopropyl-cinnoline-3-carboxamide | 0.33 mmol, 100 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NC1CC1 | C12H11BrN4O
reactant | 2,5-dimethoxyphenylboronic acid | 0.65 mmol, 118 mg | COC1=C(C=C(C=C1)OC)B(O)O | C8H11BO4
product | 4-amino-N-cyclopropyl-8-(2,5-dimethoxyphenyl)cinnoline-3-carboxamide | 101 mg, 85% yield | NC1=C(N=NC2=C(C=CC=C12)C1=C(C=CC(=C1)OC)OC)C(=O)NC1CC1 | C20H20N4O3
